US08283353B2
1-benzyl-N-(4-{[tert-butyl(dimethyl)silyl]oxy}phenyl)-1H-pyrazol-5-amine
A suspension of 1-benzyl-1H-pyrazol-5-amine (5.0 g), (4-{[tert-butyl(dimethyl)silyl]oxy}phenyl)boronic acid (15 g), copper acetate (11 g), pyridine (12 mL) and molecular sieves 4A (10 g) in tetrahydrofuran (150 mL) was stirred for 12 hr. The reaction mixture was diluted with ethyl acetate, the insoluble material was filtered off through celite, and the filtrate was concentrated. The residue was purified by silica gel column chromatography to give the title compound as a pale-yellow amorphous solid (4.9 g, 45%).

reactant | 1-benzyl-1H-pyrazol-5-amine | 5.0 g | C(C1=CC=CC=C1)N1N=CC=C1N | C10H11N3
reactant | (4-{[tert-butyl(dimethyl)silyl]oxy}phenyl)boronic acid | 15 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)B(O)O | C12H21BO3Si
reactant | pyridine | 12 mL | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper acetate | 11 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 1-benzyl-N-(4-{[tert-butyl(dimethyl)silyl]oxy}phenyl)-1H-pyrazol-5-amine | 4.9 g, 45% | C(C1=CC=CC=C1)N1N=CC=C1NC1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C | C22H29N3OSi
